US07968573B2
Under ice-cooling, 7.67 g of phosphorus oxychloride was added dropwise to 4 g of N,N-dimethylformamide. The mixture was stirred at room temperature for 30 minutes, and 2.1 g of 1-(2,6-dichlorophenyl)-1H-pyrrole was added thereto. The resulting mixture was stirred at 60° C. for 2 hours, allowed to cool to room temperature, and then poured into ice water. The mixture was adjusted to pH 4 by an addition of a 2N aqueous sodium hydroxide solution, and then extracted with ethyl acetate two times. The organic layers were combined, washed successively with water and an aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel chromatography to obtain 0.80 g of 1-(2,6-dichlorophenyl)-1H-pyrrole-2-carbaldehyde of the formula:

reactant | phosphorus oxychloride | 7.67 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(2,6-dichlorophenyl)-1H-pyrrole | 2.1 g | ClC1=C(C(=CC=C1)Cl)N1C=CC=C1 | C10H7Cl2N
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | N,N-dimethylformamide | 4 g | CN(C=O)C | C3H7NO
product | 1-(2,6-dichlorophenyl)-1H-pyrrole-2-carbaldehyde | 0.80 g | ClC1=C(C(=CC=C1)Cl)N1C(=CC=C1)C=O | C11H7Cl2NO
